.subckt LATCH_COLUMN_SOLVED VDD VSS Q QB
M0 Q QB VDD VDD PMOS_VTG W=0.5U L=0.05U
M1 Q QB VSS VSS NMOS_VTG W=0.25U L=0.05U
M2 QB Q VDD VDD PMOS_VTG W=0.5U L=0.05U
M3 QB Q VSS VSS NMOS_VTG W=0.25U L=0.05U
.ends LATCH_COLUMN_SOLVED
.end
